US05705702
A Grignard reagent was conventionally prepared using 51.3 g (0.2 mol) of 3,4-di-tert-butoxyphenyl chloride, 4.9 g (0.2 mol) of magnesium, and 100 g of THF. The Grignard reagent solution was cooled in an ice water bath whereupon 5.8 g (0.049 mol) of thionyl chloride diluted with 10 g of THF was added dropwise at less 30° C. Reaction mixture was ripened for about 30 minutes. Thereafter, 26.7 g (0.12 mol) of trimethylsilyltrifluoromethane sulfonate was added dropwise at less 20° C. Reaction mixture was further ripened for 1 hour and thereafter, the reaction solution was allowed to stand overnight at room temperature. After the reaction solution was again cooled in an ice water bath, 200 g of 16.7% ammonium chloride aqueous solution was added thereto at less 30° C. After separation, 100 g of chloroform was added to the organic layer, which was washed three times using 100 g of water. Thereafter, the solvent was distilled off under reduced pressure by means of a rotary evaporator, obtaining an oily residue. The oily residue was recrystallized, isolating tris(3,4-di-tert-butoxyphenyl)sulfonium trifluoromethanesulfonate of 99% purity in an amount of 13.2 g (yield 32%).

reactant | 3,4-di-tert-butoxyphenyl chloride | 0.2 mol, 51.3 g | C(C)(C)(C)OC=1C=C(C=CC1OC(C)(C)C)Cl | C14H21ClO2
reactant | magnesium | 0.2 mol, 4.9 g | [Mg] | Mg
reactant | thionyl chloride | 0.049 mol, 5.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | trimethylsilyltrifluoromethane sulfonate | 0.12 mol, 26.7 g | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | ammonium chloride | 200 g | [Cl-].[NH4+]
solvent | THF | 10 g | C1CCOC1 | C4H8O
solvent | THF | 100 g | C1CCOC1 | C4H8O
product | tris(3,4-di-tert-butoxyphenyl)sulfonium trifluoromethanesulfonate | yield 32% | FC(S(=O)(=O)[O-])(F)F.C(C)(C)(C)OC=1C=C(C=CC1OC(C)(C)C)[S+](C1=CC(=C(C=C1)OC(C)(C)C)OC(C)(C)C)C1=CC(=C(C=C1)OC(C)(C)C)OC(C)(C)C | InChI=1S/C42H63O6S.CHF3O3S/c1-37(2,3)43-31-22-19-28(25-34(31)46-40(10,11)12)49(29-20-23-32(44-38(4,5)6)35(26-29)47-41(13,14)15)30-21-24-33(45-39(7,8)9)36(27-30)48-42(16,17)18;2-1(3,4)8(5,6)7/h19-27H,1-18H3;(H,5,6,7)/q+1;/p-1
